US07659360B2
In a 500-mL five-necked flask equipped with a thermometer, a stirrer, a nitrogen inlet tube and a cooling tube with a fractionating device, 34.58 g (0.1 mol) of 1,3-bis(4-amino-α,α-dimethylbenzyl)benzene (4,4′-(m-phenylenediisopropylidene)dianiline also known as BisA-M) was dissolved in a solvent (68.65 g of γ-butyrolactone and 17.16 g of N,N-dimethylacetamide) in a nitrogen atmosphere. The obtained solution was cooled to 5° C. in an ice-water bath. While maintaining the temperature at 5° C., 22.62 g (0.1 mol) of 1,2,4,5-cyclohexanetetracarboxylic dianhydride and 0.50 g (0.005 mol) of triethylamine as an imidation catalyst were added at one time. After the addition, the temperature was raised to 180° C. to continue the reflux for 8 h while removing the distillate from time to time. After the completion of the reaction, the inside temperature was lowered to 100° C. by air cooling. Thereafter, the reaction solution was diluted by adding 143.6 g of N,N-dimethylacetamide and cooled while stirring, thereby obtaining a polyimide resin solution having a solid content of 20% by weight. The weight of the polyimide resin solution was 262.47 g and the total amount of the distillate was 4.86 g. A part of the polyimide resin solution was poured into 1 L of methanol to precipitate the polyimide. The polyimide separated by filtration was washed with methanol and then dried at 100° C. for 24 h in a vacuum dryer, thereby obtaining a white powder. In the IR spectrum thereof, the absorptions at 1702 cm−1 and 1772 cm−1 which were characteristic of imido group were found. The logarithmic viscosity of the polyimide was 0.94.

reactant | 1,3-bis(4-amino-α,α-dimethylbenzyl)benzene | 0.1 mol, 34.58 g | NC1=CC=C(C(C)(C)C2=CC(=CC=C2)C(C2=CC=C(C=C2)N)(C)C)C=C1 | C24H28N2
reactant | γ-butyrolactone | 68.65 g | C1(CCCO1)=O | C4H6O2
reactant | 1,2,4,5-cyclohexanetetracarboxylic dianhydride | 0.1 mol, 22.62 g | C1C2C(CC3C1C(=O)OC3=O)C(=O)OC2=O | C10H8O6
reactant | triethylamine | 0.005 mol, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 143.6 g | CN(C(C)=O)C | C4H9NO
reactant | N,N-dimethylacetamide | 17.16 g | CN(C(C)=O)C | C4H9NO
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
